US04234729
If methyl ethylphenylphosphinite is used in place of methyl diphenylphosphinite in substantially the same aforesaid procedure of this example, 2,4,6-tris(ethylphenylphosphinyl)pyrimidine will be formed. If ethyl dipropylphosphinite is used, the product will be 2,4,6-tris(dipropylphosphinyl)pyrimidine. If methyl diisobutylphosphinite is used, 2,4,6-tris(isobutylphosphinyl)pyrimidine will be formed. If ethyl dibenzylphosphinite is used, the product will be 2,4,6-tris(dibenzylphosphinyl)pyrimidine.

reactant | methyl ethylphenylphosphinite | C(C)P(OC)C1=CC=CC=C1 | C9H13OP
reactant | 2,4,6-tris(ethylphenylphosphinyl)pyrimidine | C(C)P(=O)(C1=NC(=CC(=N1)P(=O)(C1=CC=CC=C1)CC)P(=O)(C1=CC=CC=C1)CC)C1=CC=CC=C1 | C28H31N2O3P3
reactant | ethyl dipropylphosphinite | C(CC)P(OCC)CCC | C8H19OP
reactant | 2,4,6-tris(dipropylphosphinyl)pyrimidine | C(CC)P(=O)(C1=NC(=CC(=N1)P(=O)(CCC)CCC)P(=O)(CCC)CCC)CCC | C22H43N2O3P3
reactant | methyl diisobutylphosphinite | C(C(C)C)P(OC)CC(C)C | C9H21OP
product | 2,4,6-tris(isobutylphosphinyl)pyrimidine | C(C(C)C)P(=O)C1=NC(=CC(=N1)P(=O)CC(C)C)P(=O)CC(C)C | C16H31N2O3P3
